US09085540B2
To a mixture of tert-butyl (3R)-3-{[3-bromo-5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (500 mg) and pyridine (3 mL) was added cuprous cyanide (88 mg), followed by reacting at 140° C. for 3 hours. The reactant was left to be cooled, and then subjected to liquid separation by the addition of a mixed solvent of chloroform:methanol:28% aqueous ammonia (100:10:1) and a saturated aqueous sodium hydrogen carbonate solution. To the organic phase was added silica gel, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1) to obtain tert-butyl (3R)-3-{[5-carbamoyl-3-cyano-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (Preparation Example 317 a:154 mg), which is a low-polarity product, as a yellow amorphous substance and tert-butyl (3R)-3-{[3,5-dicarbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (Preparation Example 317 b:130 mg), which is a high-polarity substance, as a brown amorphous substance.

reactant | tert-butyl (3R)-3-{[3-bromo-5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | 500 mg | BrC=1C(=NC(=C(N1)C(N)=O)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C30H44BrN9O3
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl (3R)-3-{[5-carbamoyl-3-cyano-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)C#N | C31H44N10O3
